US06548694B2
The (RS)-(4-cyano-phenylamino)-(3,5-diethoxy-2-fluoro-phenyl)-acetic acid ethyl ester (136 mg) described in example 2.2 was dissolved in ethanol. Triethylamine (712 mg) and hydroxylamine hydrochloride (245 mg) were added and the mixture was stirred for 18 h at room temperature. The mixture was concentrated; the residue was dissolved in CH2Cl2 and washed with water. The product was purified by column chromatography (CH2Cl2/MeOH) to give 87 mg of (RS)-(3,5-diethoxy-2-fluoro-phenyl)-[4-(N-hydroxycarbamimidoyl)-phenylamino]-acetic acid ethyl ester as a colorless foam. MS: 420 ([M+H]+).

reactant | (RS)-(4-cyano-phenylamino)-(3,5-diethoxy-2-fluoro-phenyl)-acetic acid ethyl ester | 136 mg | C(C)OC(C(C1=C(C(=CC(=C1)OCC)OCC)F)NC1=CC=C(C=C1)C#N)=O | C21H23FN2O4
reactant | Triethylamine | 712 mg | C(C)N(CC)CC | C6H15N
reactant | hydroxylamine hydrochloride | 245 mg | Cl.NO
solvent | ethanol | C(C)O | C2H6O
product | (RS)-(3,5-diethoxy-2-fluoro-phenyl)-[4-(N-hydroxycarbamimidoyl)-phenylamino]-acetic acid ethyl ester | 87 mg | C(C)OC(C(NC1=CC=C(C=C1)C(NO)=N)C1=C(C(=CC(=C1)OCC)OCC)F)=O | C21H26FN3O5
